US07968711B2
4-Chloro-2-phenyl-5-hydroxypyridazin-3-one
4,5-Dichloro-2-phenylpyridazin-3-one (2.4 g, 0.01 moles) was suspended in ethanol (50 ml) and potassium hydroxide (2.0 g, 0.03 moles) was added in water (20 ml). Refluxed for 4 hours. Evaporated to dryness and added water. Acidified to pH2 with c. hydrochloric acid. Filtered off the product as a buff solid and dried in a desiccator. (2.1 g) Took 0.5 g and dissolved in methanol, filtered and evaporated. Triturated with ether to give the product as a cream solid. (0.4 g, 76%)

reactant | 4,5-Dichloro-2-phenylpyridazin-3-one | 0.01 moles, 2.4 g | ClC=1C(N(N=CC1Cl)C1=CC=CC=C1)=O | C10H6Cl2N2O
reactant | potassium hydroxide | 0.03 moles, 2.0 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 4-Chloro-2-phenyl-5-hydroxypyridazin-3-one | ClC=1C(N(N=CC1O)C1=CC=CC=C1)=O | C10H7ClN2O2
